US07919488B2
N-(1,1-dimethyl-2-morpholin-4-ylethyl)-2-{5-(4-fluorobenzyl)-3-[1-(4-methoxybenzyl)-1H-1,2,3-triazol-4-yl]-1H-pyrazol-1-yl}acetamide
A mixture of {5-(4-fluorobenzyl)-3-[1-(4-methoxybenzyl)-1H-1,2,3-triazol-4-yl]-1H-pyrazol-1-yl}acetic acid (1.0 g, 2.37 mmol), 1,1-dimethyl-2-morpholin-4-yl-ethylamine (0.375 g, 2.37 mmol), HATU (0.71 g, 2.85 mmol) and Et3N (0.71 g, 7.1 mol) in DMF (20 mL) was stirred at room temperature overnight. The mixture was concentrated in vacuo and the residue was treated with water (50 mL) and CH2Cl2 (50 mL). The aqueous layer was extracted with CH2Cl2 (2×20 mL). The combined organics were dried over Na2SO4 and evaporated to afford crude title compound (1.3 g, 92%) as yellow oil that was used without further purification in next step.

reactant | {5-(4-fluorobenzyl)-3-[1-(4-methoxybenzyl)-1H-1,2,3-triazol-4-yl]-1H-pyrazol-1-yl}acetic acid | 2.37 mmol, 1.0 g | FC1=CC=C(CC2=CC(=NN2CC(=O)O)C=2N=NN(C2)CC2=CC=C(C=C2)OC)C=C1 | C22H20FN5O3
reactant | 1,1-dimethyl-2-morpholin-4-yl-ethylamine | 2.37 mmol, 0.375 g | CC(CN1CCOCC1)(C)N | C8H18N2O
reactant | HATU | 2.85 mmol, 0.71 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 7.1 mol, 0.71 g | CCN(CC)CC | C6H15N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-(1,1-dimethyl-2-morpholin-4-ylethyl)-2-{5-(4-fluorobenzyl)-3-[1-(4-methoxybenzyl)-1H-1,2,3-triazol-4-yl]-1H-pyrazol-1-yl}acetamide | 1.3 g, 92% | CC(CN1CCOCC1)(C)NC(CN1N=C(C=C1CC1=CC=C(C=C1)F)C=1N=NN(C1)CC1=CC=C(C=C1)OC)=O | C30H36FN7O3
